US06900223B2
Preparation of Ethyl 4-Chloro-1-methyl-6-trifluoromethanesulfonyloxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylate
A solution of ethyl 4-chloro-1-methyl-6-oxo-6,7-dihydro-1H-pyrazolo-[3,4-b]pyridine-5-carboxylate (2.56 g, 10 mmol) in methylene chloride and 2,6-di-t-butyl-4-methylpyridine (3.07 g, 15 mmol is cooled to −78° C., treated dropwise with a solution of trifluoromethane sulfonic anhydride (3.30 mL, 18 mmol) in CH2Cl2, stirred at 0° C. for 4 h and diluted with EtOAc. The reaction mixture is washed sequentially with saturated NaHCO3, water, 10% aqueous HCl, water and brine, dried over Na2SO4 and concentrated in vacuo to give the title product as a tan oil, 3.56 g (92% yield), identified by HNMR.

reactant | ethyl 4-chloro-1-methyl-6-oxo-6,7-dihydro-1H-pyrazolo-[3,4-b]pyridine-5-carboxylate | 10 mmol, 2.56 g | ClC=1C2=C(NC(C1C(=O)OCC)=O)N(N=C2)C | C10H10ClN3O3
reactant | trifluoromethane sulfonic anhydride | 18 mmol, 3.30 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | 2,6-di-t-butyl-4-methylpyridine | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 4-Chloro-1-methyl-6-trifluoromethanesulfonyloxy-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 92% yield | ClC1=C2C(=NC(=C1C(=O)OCC)OS(=O)(=O)C(F)(F)F)N(N=C2)C | C11H9ClF3N3O5S
